US07151111B2
A solution of 103 mg (0.3 mmol) of (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride [Example 2g)] in 0.5 ml of N,N-dimethylformamide is treated successively with 180 μl (1.0 mmol) of N-ethyl-diisopropylamine, 20 μl (0.3 mmol) of difluoroacetic acid, and 102 mg (0.3 mmol) of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (TBTU) at RT, and thereafter, stirred for 6 hours. For the working-up, the reaction mixture is evaporated under reduced pressure. The resulting residue is dissolved in 3 ml of dichloromethane and the solution is washed with 1.5 ml of a saturated solution of sodium hydrogenate and with 1.5 ml of hydrochloric acid (0.1 N). The organic phase is dried over sodium sulfate and evaporated. For purification, the crude material is chromatographed on silica gel using a 98:2-mixture of dichloromethane and methanol as the eluent. There are obtained 21 mg (18% of theory) of (S)-2,2-difluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide as a white solid. MS: m/e=396 (M+NH4)+.

reactant | (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | 0.3 mmol, 103 mg | Cl.N[C@H]1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O
reactant | N-ethyl-diisopropylamine | 1.0 mmol, 180 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | difluoroacetic acid | 0.3 mmol, 20 μl | FC(C(=O)O)F | C2H2F2O2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.3 mmol, 102 mg | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | (S)-2,2-difluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide | 21 mg, 18% | FC(C(=O)N[C@@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)F | C19H17F3N2O3
